spice
* SPICE Netlist for the given schematic

Vs 4 0 DC 0V      * Voltage source, negative terminal to ground
C1 4 2 1uF        * Capacitor C1, 1 microfarad
C2 2 3 1uF        * Capacitor C2, 1 microfarad
* Operational amplifier 
* Note: Internal configuration and power supplies for op-amp are assumed standard

.end